US09227956B2
Preparation 25, tert-butyl (3R)-3-(4-(1-methyl-5-(2H-tetrazol-5-yl)-1H-pyrazol-4-yl)-N-(3-methylpyridin-2-yl)benzamido)piperidine-1-carboxylate (100 mg, 0.185 mmol) was dissolved in methanol (0.925 mL). To this was added HCl in dioxane (0.694 mL, 4M solution, 2.78 mmol) at room temperature. The reaction was stirred at room temperature. After 2 h, reaction was concentrated under reduced pressure, and then concentrated with toluene (3×10 mL). The crude material was triturated with EtOAc/MeOH (20:1) and filtered to afford N-(3-methylpyridin-2-yl)-4-[1-methyl-5-(2H-tetrazol-5-yl)-1H-pyrazol-4-yl]-N-[(3R)-piperidin-3-yl]benzamide (89.3 mg, 94%).

reactant | tert-butyl (3R)-3-(4-(1-methyl-5-(2H-tetrazol-5-yl)-1H-pyrazol-4-yl)-N-(3-methylpyridin-2-yl)benzamido)piperidine-1-carboxylate | 0.185 mmol, 100 mg | CN1N=CC(=C1C=1N=NNN1)C1=CC=C(C(=O)N(C2=NC=CC=C2C)[C@H]2CN(CCC2)C(=O)OC(C)(C)C)C=C1 | C28H33N9O3
reactant | HCl | Cl | ClH
reactant | dioxane | 2.78 mmol, 4M, 0.694 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 0.925 mL | CO | CH4O
product | N-(3-methylpyridin-2-yl)-4-[1-methyl-5-(2H-tetrazol-5-yl)-1H-pyrazol-4-yl]-N-[(3R)-piperidin-3-yl]benzamide | 89.3 mg, 94% | CC=1C(=NC=CC1)N(C(C1=CC=C(C=C1)C=1C=NN(C1C=1N=NNN1)C)=O)[C@H]1CNCCC1 | C23H25N9O
